US07071365B2
A mixture of 5,5′,6,6′,7,7′,8,8′-octahydro-2,2′-binaphthol (30.0 g), xylene (5 ml) and phosphotungstic acid (1.5 g) was heated to 140° C. To the mixture was added propylene (8.9 g) slowly via a dry-ice condenser. GC analysis of the reaction mixture indicated that 98% conversion of the 5,5′,6,6′,7,7′,8,8′-octahydro-2,2′-binaphthol. Small amounts of isopropylated xylene were observed as well. The mixture was purified by flash column to give 14.5 g of 3-isopropyl-5,5′,6,6′,7,7′,8,8′-octahydro-2,2′-binaphthol, mp 110° C.; 3.7 g of 3,3′-diisopropyl-5,5′,6,6′,7,7′8,8′-octahydro-2,2′-binaphthol, mp 152–3° C.; and a mixture (15 g) containing 38% of 3-isopropyl-5,5′,6,6′,7,7′,8,8′-octahydro-2,2′-binaphthol and 33% of 3,3′-diisopropyl-5,5′,6,6′,7,7′8,8′-octahydro-2,2′-binaphthol.

reactant | 5,5′,6,6′,7,7′,8,8′-octahydro-2,2′-binaphthol | 30.0 g | C=1(C(=CC=C2CCCCC12)C1=CC=2CCCCC2C=C1)O | C20H22O
reactant | propylene | 8.9 g | C=CC | C3H6
catalyst | phosphotungstic acid | 1.5 g | O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.P.[W].[W].[W].[W].[W].[W].[W].[W].[W].[W].[W].[W]
solvent | xylene | 5 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 3-isopropyl-5,5′,6,6′,7,7′,8,8′-octahydro-2,2′-binaphthol | 14.5 g | C(C)(C)C1=C(C(=C2CCCCC2=C1)O)C1=CC=2CCCCC2C=C1 | C23H28O
